US07491713B2
Step C: 3-Bromo-1-(cyclopropylmethyl)-5-phenylazepan-2-one
Phosphorus pentachloride (0.3 g, 1.44 mmol) was added slowly to a solution of 1-(cyclopropylmethyl)-5-phenylazepan-2-one (0.35 g, 1.44 mmol) in dichloromethane (8 mL) at 0° C. After 1 h, iodine (3.6 mg, 0.01 mmol) and bromine (0.07 mL, 1.44 mmol) were added, and the mixture was allowed to warm to ambient temperature. After 1 h, another 0.3 g of phosphorus pentachloride was added. After an additional 18 h, the reaction was quenched with saturated sodium bicarbonate. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were washed with water (3×), saturated brine, dried over sodium sulfate, filtered and concentrated.

reactant | Phosphorus pentachloride | 1.44 mmol, 0.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-(cyclopropylmethyl)-5-phenylazepan-2-one | 1.44 mmol, 0.35 g | C1(CC1)CN1C(CCC(CC1)C1=CC=CC=C1)=O | C16H21NO
reactant | iodine | 0.01 mmol, 3.6 mg | II | I2
reactant | bromine | 1.44 mmol, 0.07 mL | BrBr | Br2
reactant | phosphorus pentachloride | 0.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 3-Bromo-1-(cyclopropylmethyl)-5-phenylazepan-2-one | BrC1C(N(CCC(C1)C1=CC=CC=C1)CC1CC1)=O | C16H20BrNO
